US07253172B2
Benzyl 2-benzyl-4-{2-[(3-nitrophenyl)amino]-2-oxoethyl}piperazine-1-carboxylate. To a solution of 3.0 g (10.9 mmol) of (RS)-tert-butyl 2-benzylpiperazine-1-carboxylate in 30 mL of methylene chloride at 0° C. was added 2.3 mL (16.5 mmol) of triethylamine and 1.7 mL (11.9 mmol) of benzyl chloroformate. The resultant mixture was stirred at ambient temperature for 16 h and an additional 0.4 mL (2.8 mmol) of benzyl chloroformate was added. After stirring for a further 2 h, the reaction was partitioned between methylene chloride and water. The organic layer was washed sequentially with dilute hydrochloric acid, saturated sodium bicarbonate solution, and brine, dried over magnesium sulfate, and concentrated in vacuo to give 4-benzyl 1-tert-butyl 2-benzylpiperazine-1,4-dicarboxylate. The tert butyl carbamate was deprotected as described in Example 1, Step A to give 2.9 g of the free amine. A portion (1.5 g, 4.8 mmol), of this material was coupled with 1.6 g (7.5 mmol) of alpha-chloro-3-nitroacetanilide as described in Example 1, Step A, to give 1.3 g of the title compound as an off-white foamy solid. 1H NMR (400 MHz, CD3OD) δ 8.70 (s, 1H), 7.99 (d, 1H, J=8 Hz), 7.96 (d, 1H, J=8 Hz), 5.58 (t, 1H, J=8 Hz), 7.36–7.05 (m, 10H), 5.00 (bs, 2H), 4.38–4.31 (m, 1H), 3.99 (d, 1H, J=16 Hz), 3.48 (td, 1H, J=16,2 Hz), 3.22–2.95 (m, 5H), 2.80 (d, 1H, J=14 Hz), 2.33–2.20 (m, 2H).

reactant | Benzyl 2-benzyl-4-{2-[(3-nitrophenyl)amino]-2-oxoethyl}piperazine-1-carboxylate | C(C1=CC=CC=C1)C1N(CCN(C1)CC(=O)NC1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC1=CC=CC=C1 | C27H28N4O5
reactant | (RS)-tert-butyl 2-benzylpiperazine-1-carboxylate | 10.9 mmol, 3.0 g | C(C1=CC=CC=C1)C1N(CCNC1)C(=O)OC(C)(C)C | C16H24N2O2
reactant | triethylamine | 16.5 mmol, 2.3 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 11.9 mmol, 1.7 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 2.8 mmol, 0.4 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-benzyl 1-tert-butyl 2-benzylpiperazine-1,4-dicarboxylate | C(C1=CC=CC=C1)C1N(CCN(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C24H30N2O4
